US07476399B2
3-(4-Ethoxy-phenyl)-N-(1-ethyl-propyl)-acrylamide
Prepared in a similar manner to example 4 using 3-(4-ethoxy-phenyl)-acrylic acid and 3-pentylamine. MS (M+H, 262.2).

reactant | 3-(4-ethoxy-phenyl)-acrylic acid | C(C)OC1=CC=C(C=C1)C=CC(=O)O | C11H12O3
reactant | 3-pentylamine | CCC(CC)N | C5H13N
product | 3-(4-Ethoxy-phenyl)-N-(1-ethyl-propyl)-acrylamide | C(C)OC1=CC=C(C=C1)C=CC(=O)NC(CC)CC | C16H23NO2
